US20010027196A1
2-Amino-4-[(3,5-dimethyl-pyridin-2-yl-methyl)-amino]-6-pyrazol-1-yl-pyrimidine-5-carbonitrile
From 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile, C-(3,5-dimethyl-pyridin-2-yl)-methylamine dihydrochloride and DBU in DME. ES-MS m/e (%): 321 (M+H+, 100).

reactant | 2-amino-4-methanesulfinyl-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)S(=O)C)C#N)N1N=CC=C1 | C9H8N6OS
reactant | C-(3,5-dimethyl-pyridin-2-yl)-methylamine dihydrochloride | Cl.Cl.CC=1C(=NC=C(C1)C)CN
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | 2-Amino-4-[(3,5-dimethyl-pyridin-2-yl-methyl)-amino]-6-pyrazol-1-yl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)NCC1=NC=C(C=C1C)C)C#N)N1N=CC=C1 | C16H16N8
